US06117901
A mixture of 35.64 g (0.4 mol) of (D,L)-alanine (Aldrich) (or L-alanine (Aldrich)); 44 mL (0.6 mol) of thionyl chloride (Aldrich) and 200 mL of isobutanol was refluxed for 1.5 hours and the volatiles were removed completely on a rotavapor of 90° C. under reduced pressure to give (D,L)-alanine iso-butyl ester hydrochloride (or L-alanine iso-butyl ester hydrochloride), which was pure enough to be used for further transformations.

reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | thionyl chloride | 0.6 mol, 44 mL | S(=O)(Cl)Cl | Cl2OS
reactant | isobutanol | 200 mL | C(C(C)C)O | C4H10O
product | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O | InChI=1S/C7H15NO2.ClH/c1-5(2)4-10-7(9)6(3)8;/h5-6H,4,8H2,1-3H3;1H/t6-;/m0./s1
